US03979396
To a solution of 27.3 g (.1 mole) of 3-amino-4-carbomethoxy-2,5-dihydro-2-thiophenevaleric acid methyl ester in 250 ml dry methanol was added 4.0 g (0.1 mole) of sodium hydroxide pellets. The reaction mixture was refluxed 4.0 hrs, cooled and concentrated to a volume of 50 ml. The residue was taken up in 80 ml dichloromethane and transfered to a separatory funnel. After the addition of 150 ml of 10% by weight aqueous sodium bicarbonate solution, the aqueous layer was extracted twice with 50 ml portions of dichloromethane. The organic phases were combined, dried over anhydrous sodium sulfate, and evaporated to yield 6.4 g (0.0234 mole) of recovered starting material. The aqueous phase was adjusted to pH 1 with 6 N hydrochloric acid and extracted three times with 75 ml portions of dichloromethane. The organic phases were pooled, dried over anhydrous sodium sulfate, and evaporated to yield 18.3 g (0.071 mole, 71%) of 3-amino- 4-carbomethoxy-2,5-dihydro-2-thiophenevaleric acid as a tan solid, upon trituration with pet. ether.

reactant | 3-amino-4-carbomethoxy-2,5-dihydro-2-thiophenevaleric acid methyl ester | .1 mole, 27.3 g | COC(CCCCC1SCC(=C1N)C(=O)OC)=O | C12H19NO4S
reactant | sodium hydroxide | 0.1 mole, 4.0 g | [OH-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 3-amino- 4-carbomethoxy-2,5-dihydro-2-thiophenevaleric acid | 0.071 mole, 18.3 g, 71% | NC=1C(SCC1C(=O)OC)CCCCC(=O)O | C11H17NO4S
